US07009062B2
Dry, pulverulent lithium hydroxide (52.5 mmol, 4 equivalents) is added in one portion to a well-stirred solution of 2′,6′-dihydroxyacetophenone (13.1 mmol) in dry THF (40 ml) under an argon atmosphere at −78° C. The reaction mixture is stirred at −78° C. for one hour and subsequently at −10° C. for two hours. After the mixture has been re-cooled to −78° C., a solution of 4-nitrobenzoyl chloride (14.46 mmol) in THF (40 ml) is added in one portion. The mixture is stirred at −78° C. for one hour and at room temperature for 4 hours until the starting material has disappeared. The reaction mixture is emptied into a mixture of ice (400 g) and concentrated HCl (16 ml) and extracted with dichloromethane (3×50 ml). The solvents are removed from the dried extracts, and the residue is dried under reduced pressure for 24 hours. Glacial acetic acid (100 ml) and sulfuric acid (0.5 ml) are added to the residue, and the mixture is heated at 95–100° C. for from 30 minutes to one hour under an argon atmosphere. Approximately one third of the acetic acid is stripped off, and the residue is emptied into water. The precipitated product is filtered, washed and dried and recrystallised in methanol, giving 4′-nitro-5-hydroxyflavone. 1H NMR (250 MHz, CDCl3): δ=6.75–8.5 (m, 7H), 12.3 (s, 10H); EI-MS (70 eV) m/e (rel. abund.)=283.

reactant | lithium hydroxide | 52.5 mmol, 4 equivalents | [OH-].[Li+]
reactant | 2′,6′-dihydroxyacetophenone | 13.1 mmol | OC1=C(C(=CC=C1)O)C(C)=O | C8H8O3
reactant | 4-nitrobenzoyl chloride | 14.46 mmol | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | HCl | 16 ml | Cl | ClH
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 4′-nitro-5-hydroxyflavone | [N+](=O)([O-])C1=CC=C(C=2OC3=CC=CC(=C3C(C2)=O)O)C=C1 | C15H9NO5
